US06121271
2-Benzoyloxy-4-[4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-benzoic acid tert-butyl ester
The title compound was prepared according to the procedure in Example 17, step 1, using 4-[4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2, 6-dimethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid tert-butyl ester (0.072 g, 0.131 mmol), pyridine (63.4 μL, 0.784 mmol) and benzoyl chloride (30.5 μL, 0.262 mmol) to give a quantitative yield of the title compound. 1H NMR (DMSO-d6) δ 1.33 (s, 9 H), 1.57 (s, 3 H), 2.17 (s, 6 H), 2.31 (s, 3 H), 7.17 (s, 2 H), 7.36-7.48 (m, 3 H), 7.62-7.68 (m, 3 H), 7.78-7.82 (m, 1 H), 7.96 (t, 1 H), 8.10-8.24 (m, 4 H), 8.49 (s, 1 H).

reactant | 4-[4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2, 6-dimethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid tert-butyl ester | 0.131 mmol, 0.072 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)S(=O)(=O)OC1=C(C=C(C=C1C)C1=C2C=CC=CC2=CC=2SC(=C(C21)C)C)C)O)=O | C33H32O6S2
reactant | pyridine | 0.784 mmol, 63.4 μL | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 0.262 mmol, 30.5 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 2-Benzoyloxy-4-[4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenoxysulfonyl]-benzoic acid tert-butyl ester | quantitative yield | C(C)(C)(C)OC(C1=C(C=C(C=C1)S(=O)(=O)OC1=C(C=C(C=C1C)C1=C2C=CC=CC2=CC=2SC(=C(C21)C)C)C)OC(C2=CC=CC=C2)=O)=O | C40H36O7S2
